US04225722
9-Hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carbonitrile
A mixture of 9-hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde acetate (1 mm), hydroxylamine hydrochloride (1.3 mm) and sodium formate (2 mm) is refluxed for 30 hrs. in formic acid (3 parts). The product crystallize on cooling, is filtered and washed with acetone. The dry crystals are light beige, m.p. 289°-92° C.

reactant | 9-hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carboxaldehyde acetate | C(C)(=O)O.OC1=CC=C2C=CC=3OC=C(C(C3C2=C1)=O)C=O
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium formate | C(=O)[O-].[Na+]
solvent | formic acid | C(=O)O | CH2O2
product | 9-Hydroxy-1-oxo-1H-naphtho[2,1-b]pyran-2-carbonitrile | OC1=CC=C2C=CC=3OC=C(C(C3C2=C1)=O)C#N | C14H7NO3
